US04847311
A 1 liter glass reaction vessel was charged with 85.6 grams (0.375 mol) of 2,2-bis(4-hydroxyphenyl)propane, 151.2 grams (0.9 mol) of m-dinitrobenzene, 124.6 grams of potassium carbonate and 660 ml of N,N-dimethylformamide. The mixture was reacted for 10 hours at a temperature of 145°-150° C. After completing the reaction, the resultant mixture was cooled and filtered to remove potassium nitrite. The solvent was distilled off from the filtrate under reduced pressure. The residue was cooled to 65° C., added with 450 ml of methanol and stirred for an hour. The resulted crystals were filtered, washed with water, washed with methanol, and dried to obtain 164.8 grams (93.5% yield) of 2,2-bis[4-(3-nitrophenoxy)phenyl]propane as yellow brown crystals.

reactant | 2,2-bis(4-hydroxyphenyl)propane | 0.375 mol, 85.6 grams | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | m-dinitrobenzene | 0.9 mol, 151.2 grams | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | potassium carbonate | 124.6 grams | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 660 ml | CN(C=O)C | C3H7NO
product | 2,2-bis[4-(3-nitrophenoxy)phenyl]propane | 164.8 grams, 93.5% yield | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C27H22N2O6
